US04590201
4-(4-Chlorophenylthio)-3,5-dichlorobenzyl alcohol (1.28 g, 4.00 mmol) was added to stirred thionyl chloride (5.0 ml) at ambient temperature. The solution was refluxed 15 minutes, treated with dimethylformamide (1 drop), refluxed 15 minutes, treated with more dimethylformamide (1 drop), and refluxed 1 hour. Thionyl chloride was evaporated under a stream of nitrogen, hexane (5 ml) was added and evaporated under a stream of nitrogen, and the residue was dried under vacuum. Hexane (10 ml) was added, the mixture was filtered through anhydrous magnesium sulfate, and the magnesium sulfate was washed well with hexane. The combined filtrate and washes were evaporated under vacuum and dried at 35° C. under vacuum to provide 1.35 g (100%) of 4-(4-chlorophenylthio)-3,5-dichlorobenzyl chloride. The chloride was suspended in absolute ethanol (10 ml) and stirred at ambient temperature while sodium azide (720 mg, 11.1 mmol) was added. The mixture was refluxed 3 hours, kept 16 hours at - 20° C., and evaporated to dryness under vacuum at 30° C. The residue was treated with diethyl ether (50 ml), filtered, and washed with diethyl ether. The combined filtrate and washes were evaporated under vacuum and dried to provide 1.38 g (100%) of 4-(4-chlorophenylthio)-3,5-dichlorobenzyl azide as a colorless viscous oil; 60 MHz 'H NMR (CDCl3) 4.35 s (2H), 7.03 dm (J=8.5 Hz, 2H), 7.23 dm (J=8.5 Hz, 2H), 7.38 s (2H); IR (neat): 2110 cm-1.

reactant | 4-(4-Chlorophenylthio)-3,5-dichlorobenzyl alcohol | 4.00 mmol, 1.28 g | ClC1=CC=C(C=C1)SC1=C(C=C(CO)C=C1Cl)Cl | C13H9Cl3OS
reactant | thionyl chloride | 5.0 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenylthio)-3,5-dichlorobenzyl chloride | 1.35 g, 100% | ClC1=CC=C(C=C1)SC1=C(C=C(CCl)C=C1Cl)Cl | C13H8Cl4S
